US07238693B2
4-bromo-2-methoxyaniline 2
At room temperature, 3.4 ml (30 mmol, 1.25 eq) of 2-methoxyaniline is diluted in 10 ml of acetic acid. Over approximately 1 hour, 1.2 ml (24 mmol, 0.8 eq) of bromine dissolved in 10 ml of acetic acid is added dropwise. A purple precipitate is formed. When all the bromine has been added, the hydrobromide is filtered on a Buchner funnel and rinsed with acetic acid. Take up the solid in a H2O/CH2Cl2 mixture. A slight excess of KOH pellets is added, the aqueous phase is extracted with CH2Cl2 and the organic phase is dried on MgSO4. Concentration under reduced pressure gives a brown oil which is purified by column chromatography (eluent CH2Cl2). The expected product (3.46 g) is a colorless oil (yield: 57%).

reactant | 2-methoxyaniline | 30 mmol, 3.4 ml, 1.25 eq | COC1=C(N)C=CC=C1 | C7H9NO
reactant | bromine | 24 mmol, 1.2 ml, 0.8 eq | BrBr | Br2
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 4-bromo-2-methoxyaniline | yield: 57% | BrC1=CC(=C(N)C=C1)OC | C7H8BrNO
